US04214094
(a) To 70 ml of absolute ethanol is added 872 mg of sodium, and 7 g of 4-(N-cyclohexylformimidoyl)phenol is added to the solution. Subsequently, 7.4 g of ethyl 2-bromo-2-methylpropionate is further added. The mixture is refluxed under heating and with stirring for 15 hours. After distilling off the ethanol from the reaction mixture, water is added to the residue, and the solution is extracted three times with benzene. The extract is washed with water twice, with cooled dilute aqueous solution of sodium hydroxide three times and then with water twice. After drying the resulting solution over magnesium sulfate, the solvent is distilled off to give 5.54 g of ethyl 2-[4-(N-cyclohexylformimidoyl)phenoxy]-2-methylpropionate as an oil.

reactant | sodium | 872 mg | [Na] | Na
reactant | 4-(N-cyclohexylformimidoyl)phenol | 7 g | C1(CCCCC1)N=CC1=CC=C(C=C1)O | C13H17NO
reactant | ethyl 2-bromo-2-methylpropionate | 7.4 g | BrC(C(=O)OCC)(C)C | C6H11BrO2
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | ethyl 2-[4-(N-cyclohexylformimidoyl)phenoxy]-2-methylpropionate | 5.54 g | C1(CCCCC1)N=CC1=CC=C(OC(C(=O)OCC)(C)C)C=C1 | C19H27NO3
